Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Opioid Overdose
 
Major Surgical or Invasive Procedure:
Intubation ___
Extubation ___

 
History of Present Illness:
___ is a ___ year-old woman w/ opioid use who presented after 
an overdose.

Per her partner, she has had many overdoses in the past. She has 
been resistant to treatment for her opioid use and worries she 
might die if she does not get treatment. The partner reports 
that the patient injected more opioid than she could handle, 
stopped breathing, and he called EMS. 60mg? Narcan was 
administered at the scene resulting in regaining of 
consciousness.

On arrival to the ED, she was somnolent, but initially 
arousable. She denied fever, chest pain, abdominal pain and HA.

In the ED,  
- Initial Vitals: T 97.5, HR 102, BP 144/90, RR 18, O2 99%RA  

- Exam: Somnolent, but arousable to voice with bradypnea, slowed 
response time, equal 2mm pupils. Erythema and excoriation of 
bilateral hands/forearms. Soft, nontender, nondistended abdomen. 


- Labs:
   VBG 7.39 | 49, Lactate 0.6
   Chem 7 unremarkable, Cr 0.6
   CBC unremarkable, WBC 6.8, Hb 12.8
   UA negative

- Imaging: 
CT head: No acute intracranial abnormality.  
CXR: Endotracheal tube tip terminates 4.7 cm above the carina. 
No
focal consolidation 
 
- Consults: None

- Interventions: Narcan 1mg x3, 1L LR, Intubation

After continuing to be altered despite intermittent boluses of 
Narcan, she was ultimately intubated for AMS and sedated with 
propofol, fentanyl, and midazolam, and transferred to the ICU.

On arrival to the ICU, she is intubated and sedated. No family 
is at bedside and we have no contact information.

 
Past Medical History:
Opioid use disorder c/b overdoses 
Depression
Anxiety
?Bipolar/PTSD per patient 
Forearm abscess
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM
===============
VS: T 97.8, HR 66, BP 109/90, RR 16, O2 100%Int
GEN: Intubated, sedated.
EYES: Pupils 2mm bilaterally, responsive to light.
HENNT: NC/AT.
CV: NR, RR. Nl S1, S2. No m/r/g.
RESP: Mechanical bs. CTA anteriorly
GI: Soft, nontender, nondistended
MSK: No ___ edema
SKIN: NO rashes, lesions
NEURO: Intubated, sedated. Withdraws to pain. Does not awaken to
voice or touch.

DISCHARGE EXAM
===============
GENERAL: WDWN adult woman in NAD
HEENT: NCAT, sclerae anicteric, normal conjunctivae, PERRLA,
EOMI, oropharynx clear, poor dentition, MMM
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, no increased work of breathing
ABDOMEN: Soft, non-tender, non-distended, normoactive BS
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
NEUROLOGIC: A&Ox3, CNII-XII intact, strength ___ in upper and
lower extremities bilaterally, sensation grossly intact
throughout.

 
Pertinent Results:
ADMISSION LABS
===============
___ 02:29AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:29AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:29AM URINE  UHOLD-HOLD
___ 02:29AM URINE  HOURS-RANDOM
___ 03:20AM   PLT COUNT-271
___ 03:20AM   NEUTS-69.2 ___ MONOS-8.1 EOS-0.9* 
BASOS-0.1 IM ___ AbsNeut-4.71 AbsLymp-1.44 AbsMono-0.55 
AbsEos-0.06 AbsBaso-0.01
___ 03:20AM   WBC-6.8 RBC-4.41 HGB-12.8 HCT-37.5 MCV-85 
MCH-29.0 MCHC-34.1 RDW-12.8 RDWSD-39.7
___ 03:20AM   O2 SAT-73
___ 03:20AM   LACTATE-0.6
___ 03:20AM   ___ PO2-42* PCO2-49* PH-7.39 TOTAL 
CO2-31* BASE XS-3 INTUBATED-NOT INTUBA
___ 03:20AM   CALCIUM-9.4 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 03:20AM   estGFR-Using this
___ 03:20AM   GLUCOSE-106* UREA N-11 CREAT-0.6 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-25 ANION GAP-11

PERTINENT LABS
==============
___ 03:20AM BLOOD ___ pO2-42* pCO2-49* pH-7.39 
calTCO2-31* Base XS-3 Intubat-NOT INTUBA

DISCHARGE LABS
==============
None

PERTINENT IMAGING
==================
___ CXR: Endotracheal tube tip terminates 4.7 cm above the 
carina.  No focal consolidation.

___ CT Head without Contrast: Minimal paranasal sinus mucosal 
thickening. 
Otherwise normal study. 

 
Brief Hospital Course:
Ms. ___ is a ___ y/o female w/ a hx of opioid use disorder 
c/b multiple overdoses, depression, and anxiety who p/w AMS iso 
fentanyl overdose. She was initially intubated in the ED and 
admitted to the MICU, where she was extubated within 12 hours. 
Within a few hours of ICU transfer, she requested to leave AMA. 
Risks/benefits were reviewed and understood prior to discharge. 

#Polysubstance Use Disorder (opioids, methamphetamines)
#Opioid Overdose
Presented with altered mental status following unintentional 
fentanyl overdose. She was given narcan several times prior to 
arrival. Given AMS, she was intubated in the ED and admitted to 
the MICU. Within a few hours, sedation was weaned and she was 
successfully extubated to room air. She described ongoing mild 
withdrawal symptoms that did not require treatment. She denied 
any intentional overdose nor recent SI/HI. She remained 
pre-contemplative, reporting that she was not interested in 
stopping substance use at this time but was interested in using 
"as safely as possible." Patient had previously been on 
suboxone, able to maintain abstinence from opioids for ___ year; 
not interested in resuming at this time. Had planned for SW and 
addiction psychiatry evaluation, but patient declined and left 
against medical advice overnight after transfer from MICU. 
Patient given a script of narcan at time of discharge. 

#Depression
#Anxiety
#Bipolar Disorder
Following extubation, the patient did not exhibit signs of 
mania, psychosis, or significant depression. She denied any 
current or recent SI/HI. She had previously been on psychiatric 
medications but stopped ___ year ago, not currently interested in 
restarting. Psychiatry evaluation was deferred as the patient 
lacked acute symptoms, concern for intentional overdose was low, 
and the patient exhibited capacity to leave AMA. 

#Left AMA
Shortly after transfer from the MICU, the patient requested to 
leave AMA. Multiple discussions occurred with the patient, 
specifically noting the significant risk for harm, including 
death. Ms. ___ was able to review and verbalize the 
risks/benefits of leaving and had capacity to make this 
decision. Events were discussed with the overnight hospitalist 
who agreed that she had the right to leave AMA. She does not 
currently have a PCP and is limited to specific providers due to 
her insurance. Unable to schedule PCP follow up prior to 
discharge. Patient said she would follow up with a PCP in the 
coming week. 

TRANSITIONAL ISSUES:
=====================
[ ] Patient left AMA despite extensive discussion against this 
decision
[ ] Unable to schedule PCP follow up prior to discharge
[ ] Will need ongoing discussion regarding harm reduction of IV 
opioid use, as well as options for MAT. 
[ ] Consider screening for HIV, Hepatitis as an outpatient 
[ ] Consider starting medical therapy for depression, anxiety if 
patient willing
 
Medications on Admission:
None
 
Discharge Medications:
1.  Naloxone Nasal Spray 4 mg IH ONCE MR1 Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasal once 
Disp #*1 Spray Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary:
Fentanyl Overdose

#Secondary:
Altered mental status
Respiratory compromise requiring intubation 
Polysubstance use disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ICU at ___ because of an opioid 
overdose requiring a breathing tube to be placed in the 
Emergency Department.

We were able to remove the breathing tube and you were otherwise 
doing well.

We talked about your opioid use and it is clear that it is 
causing significant problems as you have had multiple overdoses 
in the past year. You stated you are not yet ready to quit, so 
we talked about harm reduction strategies:
- Always use clean needles! It sounds like you are well 
connected to the needle exchange, which is great.
- Continue using clean cotton and sources of clean water.
- Always carry Narcan with you.
- Never use alone, so in case of overdose, they are able to give 
Narcan and get you help.

If you have any thoughts of suicide, know that you have 
resources:
- Suicide Hotline ___
- You can also come in to any ED at any time and we will be able 
to get you the help you need.

Sincerely,

Your ___ Team
 
Followup Instructions:
___